US03984546
1,2,3,4-Tetrahydro-8,9-dimethoxy-3-(2-morpholinoethyl)-5H-[1]benzopyrano-[3,4-c]pyridin-5-one.
A mixture of 7.85 g (0.03 m) of 1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano [3,4-c]pyridin-5-one, 6.15 g (0.033 m) of N-(2-chloroethyl) morpholine HCl and 7.08 g (0.07 m) of triethylamine in 250 cc of ethanol was refluxed for 6 hr. and filtered hot. Treatment of the hot reaction solution with excess HCl 6 hr. and cooling to room temperature afforded crude product. Crystallization from 75% EtOH afforded analytical material mp. 238°-40°C.

reactant | 1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano [3,4-c]pyridin-5-one | 7.85 g | COC1=CC2=C(C=C1OC)C1=C(CNCC1)C(O2)=O | C14H15NO4
reactant | N-(2-chloroethyl) morpholine HCl | 6.15 g | Cl.ClCCN1CCOCC1
reactant | triethylamine | 7.08 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 250 cc | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydro-8,9-dimethoxy-3-(2-morpholinoethyl)-5H-[1]benzopyrano-[3,4-c]pyridin-5-one | COC1=CC2=C(C=C1OC)C1=C(CN(CC1)CCN1CCOCC1)C(O2)=O | C20H26N2O5
